US06958340B2
To a suspension of PCC (1.36 g, 6.32 mmol) in CH2Cl2 (10 mL) was added a solution of tert-butyl 3-(hydroxymethyl)-5-methylphenylcarbamate (1.0 g, 4.2 mmol) in CH2Cl2 (10 mL) at room temperature. After 18 hours the mixture was filtered through a pad of Celite® and concentrated. Flash column chromatography (15% EtOAc/hexanes) gave tert-butyl 3-formyl-5-methylphenylcarbamate as a white solid. 1H-NM (300 MHz, CDCl3) δ 9.90 (s, 1H), 7.75 (s, 1H), 7.58 (s, 1H), 7.39 (s, 1H), 6.59 (bs, 1H), 2.40 (s, 3H), 1.50 (s, 9H).

reactant | PCC | 6.32 mmol, 1.36 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | tert-butyl 3-(hydroxymethyl)-5-methylphenylcarbamate | 4.2 mmol, 1.0 g | OCC=1C=C(C=C(C1)C)NC(OC(C)(C)C)=O | C13H19NO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-formyl-5-methylphenylcarbamate | C(=O)C=1C=C(C=C(C1)C)NC(OC(C)(C)C)=O | C13H17NO3
